US08008307B2
Step c: ({(1S,2S,4R)-4-azido-2-[(benzyloxy)methyl]cyclopentyl}oxy)(tert-butyl)-dimethylsilane
To a solution of (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)-silyl]oxy}cyclopentanol (138.9 mg, 0.0004127 mol) and PPh3 (118 mg, 0.000451 mol) in THF (2.7 mL) at 0° C. was slowly added DEAD (71.1 μL, 0.000451 mol). The reaction was stirred for 5 minutes, then diphenylphosphonic azide (97.4 μL, 0.000452 mol) was added dropwise. The mixture was stirred for one hour. The reaction was partitioned with water and EtOAc. The layers were separated and the aqueous extracted with EtOAc (2×). The combined organics were washed with brine (1×), dried (Na2SO4), filtered, and collected in vacuo. The residue was purified by flash chromatography (0 to 10% EtOAc/hexanes) to obtain 93.5 mg (63%) of the title compound.

reactant | (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)-silyl]oxy}cyclopentanol | 0.0004127 mol, 138.9 mg | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)O | C19H32O3Si
reactant | PPh3 | 0.000451 mol, 118 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.000451 mol, 71.1 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | diphenylphosphonic azide | 0.000452 mol, 97.4 μL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | THF | 2.7 mL | C1CCOC1 | C4H8O
product | ({(1S,2S,4R)-4-azido-2-[(benzyloxy)methyl]cyclopentyl}oxy)(tert-butyl)-dimethylsilane | 93.5 mg, 63% | N(=[N+]=[N-])[C@@H]1C[C@H]([C@H](C1)O[Si](C)(C)C(C)(C)C)COCC1=CC=CC=C1 | C19H31N3O2Si
